### PR TITLE
Adds Logic.Laws and proves Logic for Functions

### PR DESCRIPTION
**Pull request by bolt12**

### CODE REVIEW

**Comment by bolt12** [comment]
Are laws like: `∨-swap : ∨ ∘ swap ≈ ∨` (commutativity of or, etc) needed? should this be bundled in something like semi-ring?

**Comment by conal** [comment]
> Are laws like: `∨-swap : ∨ ∘ swap ≈ ∨` (commutativity of or, etc) needed? should this be bundled in something like semi-ring?

Maybe `BooleanAlgebra` from [`Algebra.Bundles`](https://agda.github.io/agda-stdlib/Algebra.Bundles.html).

**Comment by bolt12** [comment]
Ah nice!

File: Categorical/Laws.agda [hunk 1]
```diff
@@ -102,4 +102,33 @@ record CartesianClosed {obj : Set o} ⦃ _ : Products obj ⦄
...
+    de-morganŝ : not ∘ ∨ ≈ ∧ ∘ (not ⊗ not)
+    de-morganš : not ∘ ∧ ≈ ∨ ∘ (not ⊗ not)
+
+    not∘not≈id : not ∘ not ≈ id
+
+    -- A xor B ≈ ( A ∨ B ) ∧ (not ( A ∧ B ))
+    ∧∨-xor : xor ≈ ∧ ∘ (∨ ▵ not ∘ ∧)
+
+    condˡ : ∀ { f g : a ⇨ a } → cond ∘ (false ∘ ! ▵ (f ▵ g)) ≈ f
+    condʳ : ∀ { f g : a ⇨ a } → cond ∘ (true ∘ ! ▵ (f ▵ g)) ≈ g
```
Comment (conal) [inline Categorical/Laws.agda:132]: I think you can use unitors in place of the explicit left `_▵_` in each of these definitions. Although currently the unitors are currently defined on `Cartesian`, I plan to re-introduce `Monoidal` and generalize types from `Cartesian` to `Monoidal` wherever possible. I don't see how to free these `cond` laws from needing `Cartesian` even then, but there might be a way if we introduce coproducts and replace `Bool` by `⊤ ⊎ ⊤`.

Comment (conal) [reply Categorical/Laws.agda:132]: If you add a space after `true`, the pair of signatures will be easier to process visually.

File: Functions/Laws.agda [hunk 2]
```diff
@@ -48,3 +48,43 @@ module →-laws-instances where
...
+      ; condʳ = λ x → refl≡
+      } where
+          ∨-idʳ-aux : ∀ { any : ⊤ → Bool } → ∨ ∘ (any ▵ true) ≈ true
+          ∨-idʳ-aux {any} x with (any x)
+          ... | 𝕗 = refl≡
+          ... | 𝕥 = refl≡
+          ∧-idʳ-aux : ∀ { any : ⊤ → Bool } → ∧ ∘ (any ▵ false) ≈ false
+          ∧-idʳ-aux {any} x with (any x)
+          ... | 𝕗 = refl≡
+          ... | 𝕥 = refl≡
```
Comment (conal) [inline Functions/Laws.agda:90]: Any reason not to inline these local definitions at their single uses? Maybe the use of `with`? Perhaps `case_of_` instead?

File: Categorical/Laws.agda (hunk 1 above)
Comment (bolt12) [reply Categorical/Laws.agda:132]: Yeah, I also feel like the laws are a bit awkward in this style, specially `cond` and `xor`.

An alternative could be this type signature `{f : a -> b} {g : a -> c} {p : a -> Either a a} -> either f g . p`

File: Functions/Laws.agda (hunk 2 above)
Comment (bolt12) [reply Functions/Laws.agda:90]: Honestly I didn't remember I could use `case of` 😛 nice! Thanks!

File: Categorical/Laws.agda (hunk 1 above)
Comment (conal) [reply Categorical/Laws.agda:132]: That idea looks very like the formulation in section 1.5.6 of [*Calculating Functional Programs*](https://www.cs.ox.ac.uk/publications/publication2360-abstract.html).

Comment (bolt12) [reply Categorical/Laws.agda:132]: And indeed that's from where I know it 😄

Comment (conal) [reply Categorical/Laws.agda:132]: Cool. I love that paper! It's also where I picked up the names "`_▵_`" and "`_▿_`" in place of the more common "`⟨_,_⟩`" and "`[_,_]`".

File: Functions/Laws.agda (hunk 2 above)
Comment (bolt12) [reply Functions/Laws.agda:91]: Hmm it seems `case_of_` does not really work as `with` . It seems `with` rewrites the goal with the pattern matching case and `case_of_` does not

Comment (conal) [reply Functions/Laws.agda:91]: Makes sense. Thanks for the update.

**Comment by bolt12** [comment]
@conal I've made some changes. I couldn't get the bundles to work out so I just added some more boolean algebra laws. I left the distributive laws commented as they are weird to specify in point-free

File: Categorical/Laws.agda [hunk 3]
```diff
@@ -193,23 +205,65 @@ record Logic {obj : Set o} ⦃ _ : Products obj ⦄
...
-    condˡ : ∀ { f g : a ⇨ a } → cond ∘ (false ∘ ! ▵ (f ▵ g)) ≈ f
-    condʳ : ∀ { f g : a ⇨ a } → cond ∘ (true ∘ ! ▵ (f ▵ g)) ≈ g
+    -- -- A xor B ≋ ( A ∨ B ) ∧ (not ( A ∧ B ))
+    ∧∨-xor : xor ≋ ∧ ∘ (∨ ▵ not ∘ ∧)
+
+    condˡ : ∀ { a : obj } → cond ∘ first false ≋ exl {a = a} ∘ unitorᵉˡ
+    condʳ : ∀ { a : obj } → cond ∘ first true  ≋ exr {a = a} ∘ unitorᵉˡ
+
+
+  ∨-idʳ : ∀ { any : ⊤ ⇨ Bool } → ∨ ∘ (any ▵ true) ≋ true
```
Comment (conal) [inline Categorical/Laws.agda:243]: Isn’t this one better named “`annihilatorʳ`”? Ditto for the next definition. I’d expect the following identities:

``` agda
  ∧-idˡ : ∀ {g : ⊤ ⇨ Bool} → ∧ ∘ (true  ▵ g) ≋ g
  ∧-idʳ : ∀ {f : ⊤ ⇨ Bool} → ∧ ∘ (f ▵  true) ≋ f
  ∨-idˡ : ∀ {g : ⊤ ⇨ Bool} → ∨ ∘ (false ▵ g) ≋ g
  ∨-idʳ : ∀ {f : ⊤ ⇨ Bool} → ∨ ∘ (f ▵ false) ≋ f
```

File: Categorical/Laws.agda [hunk 4]
```diff
@@ -148,6 +148,18 @@ record Cartesian {obj : Set o} ⦃ _ : Products obj ⦄
...
+    begin
+      swap ∘ (f ▵ g)
+    ≡⟨⟩
+      (exr ▵ exl) ∘ (f ▵ g)
+    ≈⟨ ▵∘ ⟩
+      (exr ∘ (f ▵ g) ▵ exl ∘ (f ▵ g))
+    ≈⟨ ▵≈ exr∘▵ exl∘▵ ⟩
+      g ▵ f
+    ∎
+
```
Comment (conal) [inline Categorical/Laws.agda:162]: Pretty proof. :)

File: Categorical/Laws.agda (hunk 3 above)
Comment (bolt12) [reply Categorical/Laws.agda:243]: Yes, sorry I forgot to rename those as well 🤦🏼 

Thank you for the identities! Will do!

File: Categorical/Laws.agda (hunk 4 above)
Comment (bolt12) [reply Categorical/Laws.agda:162]: Thanks! I am getting the hang of this 😄

File: Categorical/Laws.agda (hunk 3 above)
Comment (bolt12) [reply Categorical/Laws.agda:243]: I think distribution laws will become more elegant once we have CoCartesian Categories

File: Categorical/Laws.agda [hunk 5]
```diff
@@ -187,4 +199,103 @@ record CartesianClosed {obj : Set o} ⦃ _ : Products obj ⦄
...
+  ∨-annihilatorʳ : ∀ { any : ⊤ ⇨ Bool } → ∨ ∘ (any ▵ true) ≋ true
+  ∨-annihilatorʳ {any} =
+    begin
+      ∨ ∘ (any ▵ true)
+    ≈⟨ ∘≈ˡ (sym ∨-commutative) ⟩
+      (∨ ∘ swap) ∘ (any ▵ true)
+    ≈⟨ ∘-assocʳ ⟩
+      ∨ ∘ (swap ∘ (any ▵ true))
+    ≈⟨ ∘≈ʳ swap-▵ ⟩
+      ∨ ∘ (true ▵ any)
```
Comment (conal) [inline Categorical/Laws.agda:256]: See `∘-assocˡ′` and `∘-assocʳ′` in `Categorical.Reasoning`. A few more opportunities to use below.

File: Categorical/Laws.agda (hunk 3 above)
Comment (conal) [reply Categorical/Laws.agda]: I bet you are right! It will be great to eliminate `Bool` from the basic vocabulary.
